US08076491B2
4-(N-(3-fluorobenzyl)-N-(4-methoxybenzyl)sulfamoyl)benzoic acid
Methyl 4-(N-(3-fluorobenzyl)-N-(4-methoxybenzyl)sulfamoyl)benzoate (500 mg, 1.12 mmol) was dissolved in MeOH/THF (1:1, 40 mL) and treated with a solution of aqueous NaOH (10 N, 8 ml). The mixture was stirred at ambient temperature overnight, then MeOH and THF were removed by rotary evaporation. The resulting aqueous solution was washed with EtOAc (10 mL) and acidified with 6 N aq HCl (˜15 mL) to pH˜4. The aqueous solution was extracted with EtOAc (3×, 40 mL) and the combined organic layers were washed with water, brine, dried over MgSO4 and concentrated. The crude product was purified by recrystallization from EtOH to afford the title compound 4-(N-(3-fluorobenzyl)-N-(4-methoxybenzyl)sulfamoyl)benzoic acid as a white crystalline solid (150 mg) in 30% yield.

reactant | Methyl 4-(N-(3-fluorobenzyl)-N-(4-methoxybenzyl)sulfamoyl)benzoate | 1.12 mmol, 500 mg | FC=1C=C(CN(S(=O)(=O)C2=CC=C(C(=O)OC)C=C2)CC2=CC=C(C=C2)OC)C=CC1 | C23H22FNO5S
reactant | NaOH | 10 N, 8 ml | [OH-].[Na+]
solvent | MeOH THF | 40 mL | CO.C1CCOC1
product | 4-(N-(3-fluorobenzyl)-N-(4-methoxybenzyl)sulfamoyl)benzoic acid | 150 mg | FC=1C=C(CN(S(=O)(=O)C2=CC=C(C(=O)O)C=C2)CC2=CC=C(C=C2)OC)C=CC1 | C22H20FNO5S
